US07750155B2
To a suspension of methyl (2E)-3-{5-[(3R)-3-pyrrolidinylamino]-2-pyrazinyl}acrylate (335 mg) in dichloromethane (5 mL) was added DIEA (870 uL), 3-phenylpropanal (157 ul), and sodium triacetoxyborohydride (424 mg), and the reaction mixture was stirred at ambient temperature for 2 hours. To the resultant was added saturated aq.NaHCO3, which was stirred for 30 min. The mixture was extracted with dichloromethane. The organic phase was washed with brine and dried over MgSO4, filtered, and evaporated in vacuo. The residue was crystallized from acetone and IPE to give methyl (2E)-3-[5-[{(3R)-1-(3-phenylpropyl)-3-piperidinyl}amino]-2-pyrazinyl]acrylate (183 mg) as a pale yellow crystal. The filtrate was evaporated and the residue was column chromatographed on silica gel (hexane:AcOEt=25:75) to give 84 mg of product.

reactant | methyl (2E)-3-{5-[(3R)-3-pyrrolidinylamino]-2-pyrazinyl}acrylate | 335 mg | N1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)OC | C12H16N4O2
reactant | DIEA | 870 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-phenylpropanal | 157 ul | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | sodium triacetoxyborohydride | 424 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | methyl (2E)-3-[5-[{(3R)-1-(3-phenylpropyl)-3-piperidinyl}amino]-2-pyrazinyl]acrylate | 183 mg | C1(=CC=CC=C1)CCCN1C[C@@H](CCC1)NC=1N=CC(=NC1)/C=C/C(=O)OC | C22H28N4O2
